US08017554B2
S.3. (4-Difluoromethoxy-1,1-dioxo-1H-1λ*6*-benzo[d]isothiazol-3-yl)-isopropylamine (Compound example C.26)
400 mg (1.5 mmol) 3-Chloro-4-difluoromethoxy-benzo[d]isothiazole 1,1-dioxide were dissolved in 5 ml dry THF and cooled to 0° C. 883 mg (15.0 mmol) isopropylamine was dissolved in 5 ml dry THF and added slowly. Stirring was continued for 1 h at this temperature and for 14 h at room temperature. The mixture was concentrated in vacuum. The residue was purified on silica (eluent: cyclohexane/ethyl acetate 4:1) to afford 140 mg (0.48 mmol; 32% of theory) of the title compound (C.26).

reactant | 3-Chloro-4-difluoromethoxy-benzo[d]isothiazole 1,1-dioxide | 1.5 mmol, 400 mg | ClC1=NS(C2=C1C(=CC=C2)OC(F)F)(=O)=O | C8H4ClF2NO3S
reactant | isopropylamine | 15.0 mmol, 883 mg | C(C)(C)N | C3H9N
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (4-Difluoromethoxy-1,1-dioxo-1H-1λ*6*-benzo[d]isothiazol-3-yl)-isopropylamine | FC(OC1=CC=CC2=C1C(=NS2(=O)=O)NC(C)C)F | C11H12F2N2O3S
